US07414131B2
N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-7-o-tolylpyrido[3,4-d]pyrimidin-4-amine
N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (100 mg, 0.34 mmol) was dissolved in anhydrous THF (2 mL). To the mixture was added o-tolylboronic acid (92 mg, 0.68 mmol), Cu(OAc)2 (124 mg, 0.68 mmol) and triethylamine (0.68 g, 0.095 mL). The mixture was agitated for 6 h and the solvent was removed under a vacuum. The residue was purified using a gradient of ethyl acetate:hexane (0-100%) to give the desired compound as reddish powder (6.0 mg, 5%).

reactant | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.34 mmol, 100 mg | FC(C1=CC=C(C=C1)NC=1C2=C(N=CN1)CNCC2)(F)F | C14H13F3N4
reactant | o-tolylboronic acid | 0.68 mmol, 92 mg | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | triethylamine | 0.095 mL, 0.68 g | C(C)N(CC)CC | C6H15N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Cu(OAc)2 | 0.68 mmol, 124 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-7-o-tolylpyrido[3,4-d]pyrimidin-4-amine | 6.0 mg, 5% | FC(C1=CC=C(C=C1)NC=1C2=C(N=CN1)CN(CC2)C2=C(C=CC=C2)C)(F)F | C21H19F3N4
